### PR TITLE
/Categories cleanup

### PR DESCRIPTION
**Pull request by dan-iel-lee**
This commit is purely renaming and refactoring:
- new syntax for hom-sets ( C [ x , y ] )
- \* as sequencing
- \circ as composition
- rename cursive category letters to normal C and D
- camel case where it makes sense (didn't change things like F-hom since I think that looks better than FHom because of capitalization of 'F')
- more level polymorphism in `Core`
- renamed a couple results in `Presheaves` to better reflect their conclusion

### CODE REVIEW

File: Cubical/Categories/Category.agda [hunk 1]
```diff
@@ -24,59 +24,90 @@ module Cubical.Categories.Category where
...
-    hom : ob → ob → Type ℓ'
-    idn : ∀ x → hom x x
-    seq : ∀ {x y z} (f : hom x y) (g : hom y z) → hom x z
-    seq-λ : ∀ {x y : ob} (f : hom x y) → seq (idn x) f ≡ f
-    seq-ρ : ∀ {x y} (f : hom x y) → seq f (idn y) ≡ f
-    seq-α : ∀ {u v w x} (f : hom u v) (g : hom v w) (h : hom w x) → seq (seq f g) h ≡ seq f (seq g h)
+    Hom[_,_] : ob → ob → Type ℓ'
+    id : ∀ x → Hom[ x , x ]
+    _⋆_ : ∀ {x y z} (f : Hom[ x , y ]) (g : Hom[ y , z ]) → Hom[ x , z ]
+    seq-λ : ∀ {x y : ob} (f : Hom[ x , y ]) → (id x) ⋆ f ≡ f
```
Comment (mortberg) [inline Cubical/Categories/Category.agda:40]: I would change these names as well. How about `⋆IdL`, `⋆IdR` and `⋆Assoc`? 

This should be in line with what we are doing in Algebra. Or what does @felixwellen think?

File: Cubical/Categories/Category.agda [hunk 2]
```diff
@@ -24,59 +24,90 @@ module Cubical.Categories.Category where
...
 
 open Precategory public
 
+
+-- Helpful syntax/notation
+
+_[_,_] : (C : Precategory ℓ ℓ') → (x y : C .ob) → Type ℓ'
+_[_,_] = Hom[_,_]
+
+-- needed to define this in order to be able to make the subsequence syntax declaration
```
Comment (mortberg) [inline Cubical/Categories/Category.agda:56]: Could one make these private?

File: Cubical/Categories/Category.agda [hunk 3]
```diff
@@ -24,59 +24,90 @@ module Cubical.Categories.Category where
...
+
+
+
 -- Categories
 
-record isCategory {ℓ ℓ'} (𝒞 : Precategory ℓ ℓ') : Type (ℓ-max ℓ ℓ') where
+record isCategory (C : Precategory ℓ ℓ') : Type (ℓ-max ℓ ℓ') where
   field
-    homIsSet : ∀ {x y} → isSet (𝒞 .hom x y)
+    homIsSet : ∀ {x y} → isSet (C [ x , y ])
```
Comment (mortberg) [inline Cubical/Categories/Category.agda:76]: This should be `isSetHom`

File: Cubical/Categories/Category.agda [hunk 4]
```diff
@@ -24,59 +24,90 @@ module Cubical.Categories.Category where
...
+record CatIso {C : Precategory ℓ ℓ'} (x y : C .Precategory.ob) : Type ℓ' where
   constructor catiso
   field
-    h : 𝒞 .hom x y
-    h⁻¹ : 𝒞 .hom y x
-    sec : 𝒞 .seq h⁻¹ h ≡ 𝒞 .idn y
-    ret : 𝒞 .seq h h⁻¹ ≡ 𝒞 .idn x
+    h : C [ x , y ]
+    h⁻¹ : C [ y , x ]
+    sec : (h⁻¹ ⋆⟨ C ⟩ h) ≡ C .id y
```
Comment (mortberg) [inline Cubical/Categories/Category.agda:86]: Why do you need parentheses here? Maybe something should bind differently?

File: Cubical/Categories/Category.agda [hunk 5]
```diff
@@ -24,59 +24,90 @@ module Cubical.Categories.Category where
...
 
-record CatIso {ℓ ℓ' : Level} {𝒞 : Precategory ℓ ℓ'} (x y : 𝒞 .ob) : Type ℓ' where
+record CatIso {C : Precategory ℓ ℓ'} (x y : C .Precategory.ob) : Type ℓ' where
   constructor catiso
   field
-    h : 𝒞 .hom x y
-    h⁻¹ : 𝒞 .hom y x
-    sec : 𝒞 .seq h⁻¹ h ≡ 𝒞 .idn y
-    ret : 𝒞 .seq h h⁻¹ ≡ 𝒞 .idn x
+    h : C [ x , y ]
```
Comment (mortberg) [inline Cubical/Categories/Category.agda:84]: It's probably not good to call this `h`. How about `mor` and `inv` instead? 

I think `sec` and `ret` could be `leftInv` and `rightInv` as well to match https://github.com/agda/cubical/blob/master/Cubical/Foundations/Isomorphism.agda#L35

File: Cubical/Categories/Functor.agda [hunk 6]
```diff
@@ -8,17 +8,18 @@ open import Cubical.Categories.Category
...
+record Functor (C : Precategory ℓC ℓC') (D : Precategory ℓD ℓD') : Type (ℓ-max (ℓ-max ℓC ℓC') (ℓ-max ℓD ℓD')) where
   no-eta-equality
   open Precategory
 
   field
-    F-ob : 𝒞 .ob → 𝒟 .ob
-    F-hom : {x y : 𝒞 .ob} → 𝒞 .hom x y → 𝒟 .hom (F-ob x) (F-ob y)
-    F-idn : {x : 𝒞 .ob} → F-hom (𝒞 .idn x) ≡ 𝒟 .idn (F-ob x)
-    F-seq : {x y z : 𝒞 .ob} (f : 𝒞 .hom x y) (g : 𝒞 .hom y z) → F-hom (𝒞 .seq f g) ≡ 𝒟 .seq (F-hom f) (F-hom g)
+    F-ob : C .ob → D .ob
```
Comment (mortberg) [inline Cubical/Categories/Functor.agda:18]: How about calling these `fmapOb`, `fmapHom`, `fmapId` and `fmap⋆`?

File: Cubical/Categories/NaturalTransformation.agda [hunk 7]
```diff
@@ -8,72 +8,79 @@ open import Cubical.Categories.Functor
...
+
+  record NatTrans (F G : Functor C D) : Type (ℓ-max (ℓ-max ℓC ℓC') (ℓ-max ℓD ℓD')) where
     open Precategory
     open Functor
 
     field
-      N-ob : (x : 𝒞 .ob) → 𝒟 .hom (F .F-ob x) (G .F-ob x)
-      N-hom : {x y : 𝒞 .ob} (f : 𝒞 .hom x y) → 𝒟 .seq (F .F-hom f) (N-ob y) ≡ 𝒟 .seq (N-ob x) (G .F-hom f)
+      -- components of the natural transformation
+      N-ob : (x : C .ob) → D [(F .F-ob x) , (G .F-ob x)]
```
Comment (mortberg) [inline Cubical/Categories/NaturalTransformation.agda:25]: How about calling these `transf` and `natural`?

File: Cubical/Categories/NaturalTransformation.agda [hunk 8]
```diff
@@ -8,72 +8,79 @@ open import Cubical.Categories.Functor
...
 
-  FUNCTOR : Precategory (ℓ-max (ℓ-max ℓ𝒞 ℓ𝒞') (ℓ-max ℓ𝒟 ℓ𝒟')) (ℓ-max (ℓ-max ℓ𝒞 ℓ𝒞') (ℓ-max ℓ𝒟 ℓ𝒟'))
-  FUNCTOR .ob = Functor 𝒞 𝒟
-  FUNCTOR .hom = NatTrans
-  FUNCTOR .idn = id-trans
-  FUNCTOR .seq = seq-trans
-  FUNCTOR .seq-λ α = make-nat-trans-path λ i x → 𝒟 .seq-λ (α .N-ob x) i
-  FUNCTOR .seq-ρ α = make-nat-trans-path λ i x → 𝒟 .seq-ρ (α .N-ob x) i
-  FUNCTOR .seq-α α β γ = make-nat-trans-path λ i x → 𝒟 .seq-α (α .N-ob x) (β .N-ob x) (γ .N-ob x) i
+  FUNCTOR : Precategory (ℓ-max (ℓ-max ℓC ℓC') (ℓ-max ℓD ℓD')) (ℓ-max (ℓ-max ℓC ℓC') (ℓ-max ℓD ℓD'))
```
Comment (mortberg) [inline Cubical/Categories/NaturalTransformation.agda:79]: Maybe we should call this `FunctorPrecat`?

File: Cubical/Categories/Presheaves.agda [hunk 9]
```diff
@@ -14,63 +14,63 @@ open import Cubical.Categories.Sets
 
 module _ (ℓ ℓ' : Level) where
   PSH : Precategory ℓ ℓ' → Precategory (ℓ-max (ℓ-suc ℓ) ℓ') (ℓ-max (ℓ-suc ℓ) ℓ')
-  PSH 𝒞 = FUNCTOR (𝒞 ^op) (SET ℓ)
+  PSH C = FUNCTOR (C ^op) (SET ℓ)
```
Comment (mortberg) [inline Cubical/Categories/Presheaves.agda:17]: How about PreShv instead?

File: Cubical/Categories/Presheaves.agda [hunk 10]
```diff
@@ -14,63 +14,63 @@ open import Cubical.Categories.Sets
...
-  yo x .F-seq f g i h = 𝒞 .seq-α g f h i
+  yo : C .ob → Functor (C ^op) (SET ℓ)
+  yo x .F-ob y .fst = C [ y , x ]
+  yo x .F-ob y .snd = C-cat .homIsSet
+  yo x .F-hom f g = f ⋆⟨ C ⟩ g
+  yo x .F-id i f = C .seq-λ f i
+  yo x .F-seq f g i h = C .seq-α g f h i
 
-  YO : Functor 𝒞 (PSH ℓ ℓ 𝒞)
+  YO : Functor C (PSH ℓ ℓ C)
```
Comment (mortberg) [inline Cubical/Categories/Presheaves.agda:34]: `yoFunctor`?

File: Cubical/Categories/Pullback.agda [hunk 11]
```diff
@@ -13,32 +13,32 @@ private
...
 
-record Pullback {𝒞 : Precategory ℓ ℓ'} (cspn : Cospan 𝒞) : Type (ℓ-max ℓ ℓ') where
+record Pullback {C : Precategory ℓ ℓ'} (cspn : Cospan C) : Type (ℓ-max ℓ ℓ') where
   constructor pullback
   field
-    c : ob 𝒞
+    c : ob C
     cn : Cone cspn c
-    universal : {c' : ob 𝒞} (cn' : Cone cspn c') → ∃![ f ∈ 𝒞 .hom c' c ] Σ[ q ∈ Cone.p₁ cn' ≡ 𝒞 .seq f (Cone.p₁ cn) ] (Cone.p₂ cn' ≡ 𝒞 .seq f (Cone.p₂ cn))
+    universal : {c' : ob C} (cn' : Cone cspn c') → ∃![ f ∈ C [ c' , c ] ] Σ[ q ∈ Cone.p₁ cn' ≡ f ⋆⟨ C ⟩ (Cone.p₁ cn) ] (Cone.p₂ cn' ≡ f ⋆⟨ C ⟩ (Cone.p₂ cn))
```
Comment (mortberg) [inline Cubical/Categories/Pullback.agda:35]: Long line

File: Cubical/Categories/Pullback.agda [hunk 12]
```diff
@@ -13,32 +13,32 @@ private
...
 
 -- whisker the parallel morphisms g and g' with f
-lPrecatWhisker : {𝒞 : Precategory ℓ ℓ'} {x y z : 𝒞 .ob} (f : 𝒞 .hom x y) (g g' : 𝒞 .hom y z) (p : g ≡ g') → 𝒞 .seq f g ≡ 𝒞 .seq f g'
-lPrecatWhisker {𝒞 = 𝒞} f _ _ p = cong (𝒞 .seq f) p
+lPrecatWhisker : {C : Precategory ℓ ℓ'} {x y z : C .ob} (f : C [ x , y ]) (g g' : C [ y , z ]) (p : g ≡ g') → f ⋆⟨ C ⟩ g ≡ f ⋆⟨ C ⟩ g'
```
Comment (mortberg) [inline Cubical/Categories/Pullback.agda:38]: This general fact should be upstreamed

File: Cubical/Categories/Sets.agda [hunk 13]
```diff
@@ -9,9 +9,9 @@ open import Cubical.Categories.Category
 module _ ℓ where
   SET : Precategory (ℓ-suc ℓ) ℓ
```
Comment (mortberg) [inline Cubical/Categories/Sets.agda:10]: `SetPrecat`?

File: Cubical/Categories/Type.agda [hunk 14]
```diff
@@ -8,9 +8,9 @@ open import Cubical.Categories.Category
 module _ ℓ where
   TYPE : Precategory (ℓ-suc ℓ) ℓ
```
Comment (mortberg) [inline Cubical/Categories/Type.agda:9]: `TypePrecat`?

File: Cubical/Categories/Pullback.agda [hunk 15]
```diff
@@ -13,32 +13,32 @@ private
...
+lPrecatWhisker {C = C} f _ _ p = cong (_⋆_ C f) p
 
 -- extend a cone on c by a morphism c'→c using precomposition
-coneMap : {𝒞 : Precategory ℓ ℓ'} {cspn : Cospan 𝒞} {c c' : ob 𝒞} (cn : Cone cspn c) (f : hom 𝒞 c' c) → Cone cspn c'
-coneMap {𝒞 = 𝒞} {cospan _ _ _ s₁ s₂} (cone p₁ p₂ sq) f =
-  cone (𝒞 .seq f p₁)  (𝒞 .seq f p₂) ((𝒞 .seq-α f p₁ s₁) ∙∙ lPrecatWhisker {𝒞 = 𝒞} f (𝒞 .seq p₁ s₁) (𝒞 .seq p₂ s₂) sq ∙∙ sym (𝒞 .seq-α f p₂ s₂))
+coneMap : {C : Precategory ℓ ℓ'} {cspn : Cospan C} {c c' : ob C} (cn : Cone cspn c) (f : C [ c' , c ]) → Cone cspn c'
+coneMap {C = C} {cospan _ _ _ s₁ s₂} (cone p₁ p₂ sq) f =
+  cone (f ⋆⟨ C ⟩ p₁)  (f ⋆⟨ C ⟩ p₂) ((C .seq-α f p₁ s₁) ∙∙ lPrecatWhisker {C = C} f (p₁ ⋆⟨ C ⟩ s₁) (p₂ ⋆⟨ C ⟩ s₂) sq ∙∙ sym (C .seq-α f p₂ s₂))
```
Comment (mortberg) [inline Cubical/Categories/Pullback.agda:44]: Maybe rewrite using eq reasoning to increase readability?

File: Cubical/Categories/Pullback.agda [hunk 16]
```diff
@@ -13,32 +13,32 @@ private
...
+    p₁ : C [ c , (Cospan.S₁ cspn)]
+    p₂ : C [ c , (Cospan.S₂ cspn)]
+    sq : p₁ ⋆⟨ C ⟩ (Cospan.s₁ cspn) ≡ p₂ ⋆⟨ C ⟩ (Cospan.s₂ cspn)
 
-record Pullback {𝒞 : Precategory ℓ ℓ'} (cspn : Cospan 𝒞) : Type (ℓ-max ℓ ℓ') where
+record Pullback {C : Precategory ℓ ℓ'} (cspn : Cospan C) : Type (ℓ-max ℓ ℓ') where
   constructor pullback
   field
-    c : ob 𝒞
+    c : ob C
```
Comment (mortberg) [inline Cubical/Categories/Pullback.agda:33]: Maybe `pbObj` and `pbCone`?

File: Cubical/Categories/Pullback.agda [hunk 17]
```diff
@@ -13,32 +13,32 @@ private
...
     ℓ ℓ' : Level
 
-record Cospan (𝒞 : Precategory ℓ ℓ') : Type (ℓ-max ℓ ℓ') where
+record Cospan (C : Precategory ℓ ℓ') : Type (ℓ-max ℓ ℓ') where
   constructor cospan
   field
-    S₁ S₂ vertex : Precategory.ob 𝒞
-    s₁ : hom 𝒞 S₁ vertex
-    s₂ : hom 𝒞 S₂ vertex
+    S₁ S₂ vertex : Precategory.ob C
```
Comment (mortberg) [inline Cubical/Categories/Pullback.agda:19]: Maybe using `l` and `r` (for left/right) would be better?

**Review by mortberg — CHANGES_REQUESTED** [review]
Thanks a lot for fixing this so quickly! 

One thing I wondered when reading the code is whether we should be using more instance arguments? What does the agda-categories library do? Generally I think we should take inspiration from them about how to organize this library as they probably already had to solve all of the engineering issues we will run into.

File: Cubical/Categories/Category.agda (hunk 1 above)
Comment (felixwellen) [reply Cubical/Categories/Category.agda:40]: Yes, that fits the style of the (new) names in Algebra.

File: Cubical/Categories/Category.agda (hunk 2 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Category.agda:56]: I don't think they can be made private since the syntax isn't a standalone thing. I also tried defining the operator itself as _⋆⟨_⟩_ but the issue there is that the category is the second argument, while the first argument is a morphism of that category, but Agda requires that arguments can only depend on previous arguments (is there some way to get around this)?

File: Cubical/Categories/Sets.agda (hunk 13 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Sets.agda:10]: Hm isn't SET sort of like the standard name for this category though?

File: Cubical/Categories/Type.agda (hunk 14 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Type.agda:9]: Same as above, isn't all caps the standard naming?

File: Cubical/Categories/Pullback.agda (hunk 15 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Pullback.agda:44]: Not sure I completely understand the code for coneMap yet, might have to push this to a later PR

File: Cubical/Categories/Pullback.agda (hunk 16 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Pullback.agda:33]: done

File: Cubical/Categories/Pullback.agda (hunk 17 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Pullback.agda:19]: done

File: Cubical/Categories/Pullback.agda (hunk 12 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Pullback.agda:38]: moved to `Category`

File: Cubical/Categories/Pullback.agda (hunk 11 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Pullback.agda:35]: split

File: Cubical/Categories/NaturalTransformation.agda (hunk 8 above)
Comment (dan-iel-lee) [reply Cubical/Categories/NaturalTransformation.agda:79]: Same comment as for SET and TYPE, isn't all caps standard?

File: Cubical/Categories/Presheaves.agda (hunk 10 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Presheaves.agda:34]: what about the other embedding then?

File: Cubical/Categories/Presheaves.agda (hunk 9 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Presheaves.agda:17]: done

File: Cubical/Categories/Functor.agda (hunk 6 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Functor.agda:18]: Can we keep these for now? I've used these a bunch in later commits already (which I'll be making PRs for soon) and also I do kind of like the current naming. (same for nat).

File: Cubical/Categories/Category.agda (hunk 5 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Category.agda:84]: done

File: Cubical/Categories/Category.agda (hunk 4 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Category.agda:86]: don't need parentheses

File: Cubical/Categories/Category.agda (hunk 3 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Category.agda:76]: changed

File: Cubical/Categories/Category.agda (hunk 1 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Category.agda:40]: changed

File: Cubical/Categories/Category.agda (hunk 2 above)
Comment (mortberg) [reply Cubical/Categories/Category.agda:56]: Ok, let's leave it as it is then

File: Cubical/Categories/Functor.agda (hunk 6 above)
Comment (mortberg) [reply Cubical/Categories/Functor.agda:18]: Ok, the F can stand for "Functor" of course :-)

File: Cubical/Categories/NaturalTransformation.agda (hunk 8 above)
Comment (mortberg) [reply Cubical/Categories/NaturalTransformation.agda:79]: No? Both Wikipedia and the nlab uses "Set"

Also, it's better if the name reflects that this is the `Precat` version. There should also be a category and univalent category version of this.

File: Cubical/Categories/Category.agda [hunk 18]
```diff
@@ -24,59 +24,97 @@ module Cubical.Categories.Category where
...
-(𝒞 ^op) .seq-α f g h = sym (𝒞 .seq-α _ _ _)
+_^op : Precategory ℓ ℓ' → Precategory ℓ ℓ'
+(C ^op) .ob = C .ob
+(C ^op) .Hom[_,_] x y = C .Hom[_,_] y x
+(C ^op) .id = C .id
+(C ^op) ._⋆_ f g = C ._⋆_ g f
+(C ^op) .⋆IdL = C .⋆IdR
+(C ^op) .⋆IdR = C .⋆IdL
+(C ^op) .⋆Assoc f g h = sym (C .⋆Assoc _ _ _)
+
```
Comment (mortberg) [inline Cubical/Categories/Category.agda:112]: Can you add a sanity check that C ^op ^op = C? Should be something like

```
involutiveOp : (C : Precategory ℓ ℓ') → C ^op ^op ≡ C
involutiveOp C = refl
```

(maybe you need to pattern match)

Comment (dan-iel-lee) [reply Cubical/Categories/Category.agda:112]: Yep, I'd put it in a future PR, I'll add it here as well. Only thing is it I had to enable eta equality for it to go through directly judgmentally.

Comment (mortberg) [reply Cubical/Categories/Category.agda:112]: Ah right, can you add a comment about it needing eta?

File: Cubical/Categories/NaturalTransformation.agda (hunk 8 above)
Comment (dan-iel-lee) [reply Cubical/Categories/NaturalTransformation.agda:79]: Hmm yeah you're right; Riehl's book uses **SET** in place of **Set** for when things aren't "small." But I looked it up too and don't see the notation elsewhere.

When you say there will be category and univalent versions, does that mean the versions will actually be different categories? For example, isn't **SET** as defined in `Sets.agda` already a Category, be we just haven't proven that it is an instance of `isCategory` yet.

File: Cubical/Categories/Category.agda (hunk 18 above)
Comment (dan-iel-lee) [reply Cubical/Categories/Category.agda:112]: Yep, it should be there in the latest commit

File: Cubical/Categories/NaturalTransformation.agda (hunk 8 above)
Comment (mortberg) [reply Cubical/Categories/NaturalTransformation.agda:79]: Ah, I was confused and thought that precategory, category and univalent category all had different definitions. But the way things are currently done `isCategory` and `isUnivalent` are just predicates. `

Comment (dan-iel-lee) [reply Cubical/Categories/NaturalTransformation.agda:79]: Right right. Are you good with the names as is then? Or would you prefer something like FunctorCat/SetCat?
